US05192776
To a stirring solution of 10 g of potassium carbonate in 50 ml of water was added 4.42 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride in 50 ml of chloroform, followed by a solution of 3.23 g of dimethylcarbamoyl chloride in 20 ml of chloroform which was added, dropwise, over a period of 20 minutes. After stirring for 20 hours at room temperature, the layers were separated; the organic layer was washed with water followed by a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Filtration, followed by evaporation of the filtrate afforded an oil. The oil was purified by means of high pressure liquid chromatography (silica gel; elution with 5% methanol/dichloromethane) to afford 3.50 g (69.0%) of 1-[(N,N-dimethylamino)carbonyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine as an oil.

reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride | 4.42 g | Cl.FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F
reactant | dimethylcarbamoyl chloride | 3.23 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | water | 50 ml | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[(N,N-dimethylamino)carbonyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 3.50 g, 69.0% | CN(C)C(=O)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C14H15F5N2O2
